US07538123B2
(1) Synthesis of N-methyl-1-(1-benzyloxycarbonylpiperidin-4-yl)-1H-indole-6-carboxamide
2.00 g of 1-(1-benzyloxycarbonylpiperidin-4-yl)-1H-indole-6-carboxylic acid was dissolved in 20 ml of tetrahydrofuran, and 1.03 g of 1,1′-carbonylbis-1H-imidazole was then added thereto. The obtained mixture was stirred at room temperature for 1.5 hours, and 4.11 ml of a 40% methylamine aqueous solution was added thereto. After completion of the reaction, the reaction solution was extracted with ethyl acetate. The organic layer was washed with a saturated sodium bicarbonate aqueous solution, a saturated ammonium chloride aqueous solution, and a saturated sodium chloride solution. Thereafter, the organic layer was dried over anhydrous magnesium sulfate. After removing the drying agent by filtration, the organic layer was concentrated under a reduced pressure, and the residue was then purified by NH silica gel column chromatography (ethyl acetate) and silica gel column chromatography (hexane/ethyl acetate), so as to obtain 1.77 g of the subject compound.

reactant | 1-(1-benzyloxycarbonylpiperidin-4-yl)-1H-indole-6-carboxylic acid | 2.00 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)N1C=CC2=CC=C(C=C12)C(=O)O | C22H22N2O4
reactant | 1,1′-carbonylbis-1H-imidazole | 1.03 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | methylamine | CN | CH5N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | N-methyl-1-(1-benzyloxycarbonylpiperidin-4-yl)-1H-indole-6-carboxamide | 1.77 g | CNC(=O)C1=CC=C2C=CN(C2=C1)C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C23H25N3O3
